US07973169B2
18) 4-(2-Methoxy-phenyl)-thiazol-2-ylamine
2-Bromo-1-(2-methoxy-phenyl)-ethanone (0.6388 g, 2.789 mmol) and thiourea (0.2289 g, 3.007 mmol) were dissolved in a 20 mL of ethanol. The reaction mixture was allowed to stir overnight at room temperature. The ethanol was evaporated to dryness and the crude product was dissolved in a minimum of dichloromethane. The crude product was then extracted twice with 1M sodium hydroxide and once with a saturated aqueous solution of sodium chloride. The organic layer was then dried over sodium sulfate, filtered, and evaporated to dryness to yield the pure product (0.529 g, 2.56 mmol, 92.0%). ESI-MS m/z calc. 206.3, found 207.1 (M+1)+ Retention time 1.86 minutes. 1H NMR (400 MHz, CD3CN) δ 3.91 (s, 3H), 5.54 (s, 2H), 6.97-7.02 (m, 1H), 7.03-7.06 (m, 1H), 7.23 (s, 1H), 7.24-7.29 (m, 1H), 8.06 (dd, J=7.8, 1.8 Hz, 1H).

reactant | 2-Bromo-1-(2-methoxy-phenyl)-ethanone | 2.789 mmol, 0.6388 g | BrCC(=O)C1=C(C=CC=C1)OC | C9H9BrO2
reactant | thiourea | 3.007 mmol, 0.2289 g | NC(=S)N | CH4N2S
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-(2-Methoxy-phenyl)-thiazol-2-ylamine | 2.56 mmol, 0.529 g, 92.0% | COC1=C(C=CC=C1)C=1N=C(SC1)N | C10H10N2OS
